US07435837B2
(±)-{[7-(3-chloro-4-fluorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.014 g, 19%) following the general procedure of Example 390 as a white solid, hydrochloride salt from [7-(3-chloro-4-fluorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.095 g, 0.19 mmol) and methylamine (0.12 g, 3.9 mmol). mp 229-230° C.

reactant | [7-(3-chloro-4-fluorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.19 mmol, 0.095 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=CC(=C(C=C2)F)Cl)C(F)(F)F | C23H17ClF4O4S
reactant | methylamine | 3.9 mmol, 0.12 g | CN | CH5N
product | (±)-{[7-(3-chloro-4-fluorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC=1C=C(C=CC1F)C1=CC(=CC=2CC(OC21)CNC)C(F)(F)F | C17H14ClF4NO
